simulator lang=spectre
include "../src/cs_amplifier.va"

// Imperfections testbench: offset, temp and process variation
v1 (in 0) sin(0 0.1 1k)

// Simulate a slow temperature ramp by setting Temp parameter manually per run (scripts handle sweep)
xu1 (in out 0) cs_amplifier params: A=10 Rin=1e6 Rout=1e3 Voffset=0.01 Temp=320 TempCoeff=0.01 delta_A=0.05

tran tran1 1u 2m
save tran1 v(out) v(in)
run tran1
