simulator lang=spectre
include "../src/cs_amplifier.va"

// Nonlinear testbench: large-signal drive to observe soft clipping
v1 (in 0) sin(0 1.0 1k)

xu1 (in out 0) cs_amplifier params: A=10 Rin=1e6 Rout=1e3 enable_tanh=1 vscale=0.2 Vdd=2.5 Vss=0

tran tran1 1u 2m
save tran1 v(out) v(in)
run tran1
